US08669234B2
4-Cyano-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester:
2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester (2.895 g, 6.94 mmol), bis(pinacolato)diboron (2.64 g, 10.41 mmol), Pd(dppf)2Cl2 (254 mg, 0.347 mmol) and KOAc (2.04 g, 20.82 mmol) were combined in dioxane and degassed for 12 min with bubbling N2. The reaction mixture was then stirred at 90° C. for 18 h, cooled to RT and diluted with EtOAc. The organic mixture was washed with saturated aqueous NaHCO3 and brine before being dried over MgSO4, filtered and concentrated. The crude residue was purified by silica column chromatography (50% to 100% EtOAc/Hex) to provide the title compound (1.56 g, 48%).

reactant | 2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carboxylic acid tert-butyl ester | 6.94 mmol, 2.895 g | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC=C(C=C1)Br | C19H21BrN4O2
reactant | bis(pinacolato)diboron | 10.41 mmol, 2.64 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 20.82 mmol, 2.04 g | CC(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.347 mmol, 254 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Cyano-2-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.56 g, 48% | C(C)(C)(C)OC(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H33BN4O4
